US07521446B2
2. 4-{[4-(Cyclopentylamino)-5-nitropyrimidin-2-yl]amino}trans-cyclohexan-1-ol
(2-Chloro-5-nitropyrimidin-4-yl)cyclopentylamine (6.18 mmol, 1.5 g.) and trans-4-aminocyclohexan-1-ol (7.42 mmol, 854 mg mL) were mixed in DMF (18 mL) and N,N-diisopropylethylamine (7.42 mmol, 1.29 mL) was added. The reaction mixture was stirred overnight. Solvent was removed in vacuo and the residue purified using column chromatography (SiO2, 1:1 n-hexanes/ethyl acetate→7:3 n-hexanes/ethyl acetate→ethyl acetate) to give the desired product (1.75 g, 88% yield). ES-MS: 322 (M+1). When the hydrochloride salt of an amine is used in place of the trans-4-aminocyclohexan-1-ol described above, 2 to 3 equivalents of N,N-diisopropylethylamine or sodium bicarbonate and tetrahydrofuran or acetonitrile were used as solvent.

reactant | (2-Chloro-5-nitropyrimidin-4-yl)cyclopentylamine | 6.18 mmol, 1.5 g | ClC1=NC=C(C(=N1)NC1CCCC1)[N+](=O)[O-] | C9H11ClN4O2
reactant | trans-4-aminocyclohexan-1-ol | 7.42 mmol, 854 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | N,N-diisopropylethylamine | 7.42 mmol, 1.29 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | 4-{[4-(Cyclopentylamino)-5-nitropyrimidin-2-yl]amino}trans-cyclohexan-1-ol | 1.75 g, 88% yield | C1(CCCC1)NC1=NC(=NC=C1[N+](=O)[O-])N[C@@H]1CC[C@H](CC1)O | C15H23N5O3
